US07906517B2
Ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-methyl}-cyclohexyl)-acetate (300 mg) is dissolved in N,N-dimethylformamide (4 ml), and thereto are added 2-bromoethanol (87 μl) and potassium carbonate (172 mg), and the mixture is stirred at 60° C. for 1 day. The reaction solution is cooled to room temperature, and thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=7:3% 1:1) to give ethyl trans-[4-({[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-hydroxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-methyl)-cyclohexyl]-acetate (138 mg). MS (m/z): 765 [M+H]+

reactant | Ethyl trans-(4-{[(2-{[(3,5-bis-trifluoromethyl-benzyl)-(5-hydroxy-pyrimidin-2-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-ethyl-amino]-methyl}-cyclohexyl)-acetate | 300 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)O)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C34H37F9N4O3
reactant | 2-bromoethanol | 87 μl | BrCCO | C2H5BrO
reactant | potassium carbonate | 172 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl trans-[4-({[2-({(3,5-bis-trifluoromethyl-benzyl)-[5-(2-hydroxy-ethoxy)-pyrimidin-2-yl]-amino}-methyl)-4-trifluoromethyl-phenyl]-ethyl-amino}-methyl)-cyclohexyl]-acetate | 138 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCO)CC2=C(C=CC(=C2)C(F)(F)F)N(CC)C[C@@H]2CC[C@H](CC2)CC(=O)OCC)C=C(C1)C(F)(F)F)(F)F | C36H41F9N4O4
